US06426345B1
A mixture of 4-(3-aminophenyl)-2-benzyl-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine (105 mg), propionic anhydride (0.045 ml), pyridine (0.029 ml) and 4-dimethylaminopyridine (1 mg) in dichloromethane (2 ml) was stirred at room temperature for 2 hours. Then the mixture was poured into a mixture of ethyl acetate and aqueous sodium bicarbonate. The organic phase was separated, washed with aqueous sodium bicarbonte and brine, dried over magnesium sulfate and concentrated. The residue was crystallized from ethanol to give 2-benzyl-4-(3-propionylaminophenyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine (90 mg)

reactant | 4-(3-aminophenyl)-2-benzyl-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 105 mg | NC=1C=C(C=CC1)N1C2=C(N=C(C1=O)CC1=CC=CC=C1)C=CC=N2 | C20H16N4O
reactant | propionic anhydride | 0.045 ml | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | pyridine | 0.029 ml | N1=CC=CC=C1 | C5H5N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | 4-dimethylaminopyridine | 1 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-benzyl-4-(3-propionylaminophenyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 90 mg | C(C1=CC=CC=C1)C1=NC2=C(N(C1=O)C1=CC(=CC=C1)NC(CC)=O)N=CC=C2 | C23H20N4O2
